US07829580B2
Following a procedure similar to that described in Example 132-(g), (E)-4-(acetylsulfanyl)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}piperidine hydrogen trifluoroacetate (420 mg) was subjected to the reaction with 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone (340 mg) and triethylamine (310 μl) in acetonitrile (5 ml). The product obtained by usual extraction was purified by silica gel chromatography (eluent: hexane/ethylacetate=2/1˜2/3) to afford (E)-4-(acetylsulfanyl)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine (230 mg) as a pale yellow amorphous solid.

reactant | (E)-4-(acetylsulfanyl)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}piperidine hydrogen trifluoroacetate | 420 mg | FC(C(=O)O)(F)F.C(C)(=O)SC1/C(/CNCC1)=C/C=1N=C(SC1)NC(=O)OC(C)(C)C
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | 340 mg | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
reactant | triethylamine | 310 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (E)-4-(acetylsulfanyl)-3-{[2-(t-butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]piperidine | 230 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=C(SC1)NC(=O)OC(C)(C)C | C27H32FN3O4S2
